US05622976
A mixture of 3-ethoxycarbonyl-5-(4-cyanophenyl)-1,2,4-oxadiazole (2.0 g) and 2-(1-tert-butoxycarbonylpiperidin-4-yl)ethylamine in N,N-dimethylformamide (1 ml) was heated at 120° C. for 5 hours. The mixture was dissolved with ethyl acetate, washed with water, brine, dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from ethanol to afford 3-[{2-(1-tert-butoxycarbonylpiperidin-4-yl)ethyl}carbamoyl]-5-(4-cyanophenyl)-1,2,4-oxadiazole (2.6 g).

reactant | 3-ethoxycarbonyl-5-(4-cyanophenyl)-1,2,4-oxadiazole | 2.0 g | C(C)OC(=O)C1=NOC(=N1)C1=CC=C(C=C1)C#N | C12H9N3O3
reactant | 2-(1-tert-butoxycarbonylpiperidin-4-yl)ethylamine | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN | C12H24N2O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 3-[{2-(1-tert-butoxycarbonylpiperidin-4-yl)ethyl}carbamoyl]-5-(4-cyanophenyl)-1,2,4-oxadiazole | 2.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCNC(=O)C1=NOC(=N1)C1=CC=C(C=C1)C#N | C22H27N5O4
